US05094947
Propionibacterium freudenreichii IFO12425 was inoculated into 10 liters of a culture medium (pH: 6.5) containing 0.35% of glucose, 0.30% of peptone, 0.30% of yeast extract, and 0.05% of KH2PO4. This bacteria was cultured at 30° C. using a jar fermenter; 20 g of wet microorganisms were collected by centrifugation and immersed in acetone for 2 hours. Separately, 30 liters of tris-HCl solution prepared in the same manner as in Example 1 was placed in a 70-liter reaction vessel. To the tris-HCl solution was added 20 g of the acetone-treated microorganism body. The resulting solution was maintained at 30° C., and 20 liters of acetyl phosphate prepared as in the Reference Example was added in 5-liter portions. The reaction solution yielded 3.6 kg of dicalcium fructose-1,6-diphosphate salt following treatment with calcium chloride in the same manner as described in Example 1.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | acetyl phosphate | 20 liters | P(=O)(OC(C)=O)([O-])[O-]
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
solvent | acetone | 20 g | CC(=O)C | C3H6O
product | dicalcium fructose-1,6-diphosphate salt | 3.6 kg, yield was 92% | P(=O)([O-])([O-])OCC(=O)[C@@H](O)[C@H](O)[C@H](O)COP(=O)([O-])[O-].[Ca+2].[Ca+2] | InChI=1S/C6H14O12P2.2Ca/c7-3(1-17-19(11,12)13)5(9)6(10)4(8)2-18-20(14,15)16;;/h3,5-7,9-10H,1-2H2,(H2,11,12,13)(H2,14,15,16);;/q;2*+2/p-4/t3-,5-,6-;;/m1../s1
